### PR TITLE
Add Erdős Problem 192 (unit-step walks and three-term progressions), link the formal proof

### LINKED ISSUE #6211: Erdős Problem 192
### What is the Erdős problem?

https://www.erdosproblems.com/192

Let $A=\{a_1,a_2,\ldots\}\subset \mathbb{R}^d$ be an infinite sequence such that $a_{i+1}-a_i$ is a positive unit vector. For which $d$ must $A$ contain a three-term arithmetic progression?

Status: solved (Lean). True for $d \leq 3$, false for $d \geq 4$ (Keränen's abelian-square-free word); a formal proof exists in plby/lean-proofs (`Erdos192.erdos_192`).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6211.

### What changed
Adds `FormalConjectures/ErdosProblems/192.lean` with `IsPositiveUnitWalk` and `erdos_192` (`research solved`): the set of dimensions `d` for which every positive-unit-step sequence in `ℝ^d` contains a three-term arithmetic progression is `answer(Set.Iic 3)` (true for `d ≤ 3`, false for `d ≥ 4` by Keränen [Ke92]). Linked to plby/lean-proofs `Erdos192.erdos_192` (22 Mathlib-only files, via the equivalence with abelian squares).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos192.erdos_192` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (only the bounded-existential bookkeeping differs):

<details>
<summary>Bridge</summary>

```lean
theorem erdos_192_bridge : type_of% Erdos192.erdos_192 := by
  ext d
  simp only [Set.mem_ofPred_eq, Set.mem_Iic]
  rw [← Erdos192Plby.erdos_192 d]
  refine forall_congr' fun a => imp_congr_right fun _ => ?_
  constructor
  · rintro ⟨x, hx, y, hy, z, hz, hxy, h⟩
    exact ⟨x, y, z, hx, hy, hz, hxy, h⟩
  · rintro ⟨x, y, z, hx, hy, hz, hxy, h⟩
    exact ⟨x, hx, y, hy, z, hz, hxy, h⟩
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«192»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/192.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/192.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
